US07282588B2
d) N′-[4-(1-ethyl-4-{2-[3-(hydroxymethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]-N,N-dimethylurea
To a vigorously stirred solution of (3-{4-[3-(4-aminophenyl)-1-ethyl-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}phenyl)methanol (16.13 g, 39.4 mMol) in THF (400 mL) was added NMM (4.5 mL, 40.9 mMol) followed by p-nitrophenylchloroformate (7.9 g, 39.2 mMol). (The reaction quickly became a fine suspension.) After stirring for 1 h at RT, a solution of 2.0 M dimethylamine in THF (200 mL, 400 mMol) was added. The reaction was stirred an additional 1 h at RT then concentrated to dryness under vacuum. The residue which remained was triturated with a cold solution of aq. 1 N NaOH (100 mL) in ice water (200 mL), filtered, washed with cold water (100 mL), and dried under vacuum. Purification by flash chromatography on silica gel (2 to 10% MeOH/CHCl3) gave the title product (16.67 g, 85% pure containing ˜15% starting aniline by LCMS, 75%) as a yellow solid: MS (ES) m/e 481.4 (M+H)+; 1H NMR (400 MHz, DMSO-d6) δ 12.14 (d, J=1.8 Hz, 1H), 8.31 (s, 1H), 8.26 (s, 1H), 8.07 (d, J=4.8 Hz, 1H), 7.83 (s, 1H), 7.77 (d, J=7.8 Hz, 1H), 7.42 (d, J=8.6 Hz, 2H), 7.41 (m, 1H), 7.29 (m, 1H), 7.28 (d, J=8.6 Hz, 2H), 6.79 (s, 1H), 6.78 (d, J=4.8 Hz, 1H), 5.26 (t, J=5.7 Hz, 1H), 4.56 (d, J=5.6 Hz, 2H), 4.27 (q, J=7.3 Hz, 2H), 2.91 (s, 6H), 1.51 (t, J=7.3 Hz, 3H).

reactant | (3-{4-[3-(4-aminophenyl)-1-ethyl-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}phenyl)methanol | 39.4 mMol, 16.13 g | NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC(=C2)C=2C=C(C=CC2)CO)CC | C25H23N5O
reactant | NMM | 40.9 mMol, 4.5 mL | CN1CCOCC1 | C5H11NO
reactant | dimethylamine | 2.0 M | CNC | C2H7N
reactant | THF | 400 mL | C1CCOC1 | C4H8O
reactant | THF | 400 mMol, 200 mL | C1CCOC1 | C4H8O
product | N′-[4-(1-ethyl-4-{2-[3-(hydroxymethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]-N,N-dimethylurea | 16.67 g | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C2=CC(=CC=C2)CO)C2=CC=C(C=C2)NC(N(C)C)=O | C28H28N6O2
